US08049015B2
3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(5-ethoxycarbonylmethyl-pyridin-3-yl)-benzoic acid ethyl ester (0.5 g, 1 mmol) was dissolved in MeOH (20 mL), and the solution was purged with N2 for 10 minutes. 10% Palladium on carbon (0.2 g) was added, and the reaction was stirred under an atmosphere on H2 at room temperature for 3 hours. Additional 10% palladium on carbon (0.1 g) was added, and the reaction was stirred under H2 overnight. The mixture was purged with N2 and filtered over Celite. After washing with MeOH, the filtrate was concentrated to give 4-(5-ethoxycarbonylmethyl-pyridin-3-yl)-3-ethylaminomethyl-benzoic acid.

reactant | 3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(5-ethoxycarbonylmethyl-pyridin-3-yl)-benzoic acid ethyl ester | 1 mmol, 0.5 g | C(C)OC(C1=CC(=C(C=C1)C=1C=NC=C(C1)CC(=O)OCC)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C29H32N2O6
solvent | MeOH | 20 mL | CO | CH4O
product | 4-(5-ethoxycarbonylmethyl-pyridin-3-yl)-3-ethylaminomethyl-benzoic acid | C(C)OC(=O)CC=1C=C(C=NC1)C1=C(C=C(C(=O)O)C=C1)CNCC | C19H22N2O4
